US08754073B2
57.3 cyclopropyl-[7-(piperidin-4-yloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-methanone (V-18)
70 mg tert-butyl 4-(3-cyclopropanecarbonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate are placed in 1.4 ml dichloromethane and combined with 224 l trifluoroacetic acid. The reaction mixture is stirred for 3 hours at ambient temperature, then evaporated to dryness. The residue is combined with toluene and evaporated to dryness. 77 mg (V-18) are obtained as an oil. Analytical HPLC-MS (method B): RT=1.18 min.

reactant | tert-butyl 4-(3-cyclopropanecarbonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate | 70 mg | C1(CC1)C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C | C24H34N2O4
reactant | trifluoroacetic acid | 224 l | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.4 ml | ClCCl | CH2Cl2
product | cyclopropyl-[7-(piperidin-4-yloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-methanone | C1(CC1)C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2CCNCC2 | C19H26N2O2
